US08609653B2
To a solution of ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (9.0 g, 24.69 mmol) in acetonitrile (120 mL) was added pyridine (2.60 mL, 32.1 mmol) and the mixture was cooled to 0° C., then triflic anhydride (5.42 mL, 32.1 mmol) was added dropwise in ˜15 min. After stirring at ambient temperature for 1.5 h the mixture was charged with sodium iodide (18.50 g, 123 mmol) and hydrochloric acid (10.70 mL, 32.1 mmol) (3M/water) and heated to 70° for 1.5 h. The mixture was allowed to cool to ambient temperature and then 20% Na2S2O3/water (350 mL) was added followed by ice-water and the mixture was stirred for 30 min then filtered. The solid was washed with water and dried in vacuo for 18 h to provide ethyl 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (10 g, 19.73 mmol, 80% yield) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.45 (t, J=7.12 Hz, 3 H), 2.66 (s, 3 H), 4.48 (q, J=7.22 Hz, 2 H), 5.53 (s, 2 H), 6.39 (d, J=3.71 Hz, 1 H), 6.75-6.89 (m, 1 H), 6.97 (m, J=8.02, 8.02, 4.93, 1.66 Hz, 1H), 7.03-7.16 (m, 1 H), 7.22 (d, J=3.71 Hz, 1 H); LCMS (m/z) ES+=457 (M+1).

reactant | ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 24.69 mmol, 9.0 g | FC1=C(CN2C=CC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC=C1F | C18H16F2N2O3
reactant | pyridine | 32.1 mmol, 2.60 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 32.1 mmol, 5.42 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium iodide | 123 mmol, 18.50 g | [I-].[Na+]
reactant | hydrochloric acid | 32.1 mmol, 3M, 10.70 mL | Cl | ClH
reactant | Na2S2O3 water | 350 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+].O
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | ethyl 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 19.73 mmol, 10 g, 80% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(=O)OCC)C)C=CC=C1F | C18H15F2IN2O2
